US07547698B2
SYNTHESIS OF [4-(2-PENTYLIMIDAZO[1,2-B]PYRIDAZIN-6-YL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE
Following the procedure as described in Example 2, making variations only as required to 1-bromoheptan-2-one in place of 1-bromobutan-2-one to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid in 62% yield. 1H NMR (300 MHz, CDCl3) δ 7.71-7.69 (m, 1H), 7.64-7.49 (m, 3H), 7.42 (s, 1H), 7.34-7.32 (m, 1H), 6.7 (d, J=9.9 Hz, 1H), 4.01-3.83 (m, 2H), 3.57-3.48 (m, 2H), 3.37-3.27 (m, 4H), 2.73-2.68 (m, 2H), 1.75-1.65 (m, 2H), 1.4-1.25 (m, 4H), 0.91 (t, J=6.9 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 167.5, 154.3, 146.8, 135.7, 134.4, 132.3, 129.4, 127.1, 126.8, 126.7, 126.6, 125.4, 125.3, 121.8, 113.6, 109.3, 46.5, 46.4, 46.2, 41.1, 31.5, 29.1, 29.07, 22.5, 14.0. MS (ES+) m/z 446.2 (M+1).

reactant | 1-bromoheptan-2-one | BrCC(CCCCC)=O | C7H13BrO
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | [4-(2-PENTYLIMIDAZO[1,2-B]PYRIDAZIN-6-YL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE | 62% yield | C(CCCC)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(=O)C2=C(C=CC=C2)C(F)(F)F)C1 | C23H26F3N5O
